US09029546B2
N-((4-aminocyclohexyl)methyl)-6-(1H-pyrazolo[3,4-b]pyridin-3-yl)pyridin-2-amine
To a stirred solution of 3-(6-bromo-2-pyridyl)-1-trityl-pyrazolo[5,4-b]pyridine (100 mg, 0.1933 mmol) and tert-butyl N-[4-(aminomethyl)cyclohexyl]carbamate (52.97 mg, 0.232 mmol) in DME (1.5 mL) was added Palladium acetate (4.340 mg, 0.01933 mmol) followed by dicyclohexyl-[2-(o-tolyl)phenyl]phosphane (7.046 mg, 0.01933 mmol) and sodium t-butoxide (27.87 mg, 0.2900 mmol). The reaction mixture was allowed to stir at 120 degrees in the microwave for 2 hours at which time consumption of the SM was observed. The mixture was diluted with DCM and filtered through a 2.5 g celite cartridge, combined washings were evaporated down to a smaller volume (5 ml) and the resultant solution was cooled to 0 degrees (with the aid of an ice bath) and treated with triethylsilane (0.4 mL, excess) followed by TFA (0.8 mL, excess). The reaction was allowed to stir at 0 degrees for 3 hours at which time LCMS analysis showed presence of product. The mixture was evaporated to dryness, taken up in DMSO and purified by the Fractionlynx system. Relevant fractions were collated together and filtered through a NaHCO3 cartridge to give the free base. The washings were evaporated to dryness, taken up in a small amount of MeCN/water and freeze-dried to give the required product as a white solid (19.5 mg, 31%).

reactant | 3-(6-bromo-2-pyridyl)-1-trityl-pyrazolo[5,4-b]pyridine | 0.1933 mmol, 100 mg | BrC1=CC=CC(=N1)C1=NN(C2=NC=CC=C21)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C30H21BrN4
reactant | tert-butyl N-[4-(aminomethyl)cyclohexyl]carbamate | 0.232 mmol, 52.97 mg | NCC1CCC(CC1)NC(OC(C)(C)C)=O | C12H24N2O2
reactant | dicyclohexyl-[2-(o-tolyl)phenyl]phosphane | 0.01933 mmol, 7.046 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C1CCCCC1 | C25H33P
reactant | sodium t-butoxide | 0.2900 mmol, 27.87 mg | CC(C)([O-])C.[Na+]
solvent | DME | 1.5 mL | COCCOC | C4H10O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Palladium acetate | 0.01933 mmol, 4.340 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-((4-aminocyclohexyl)methyl)-6-(1H-pyrazolo[3,4-b]pyridin-3-yl)pyridin-2-amine | 19.5 mg, 31% | NC1CCC(CC1)CNC1=NC(=CC=C1)C1=NNC2=NC=CC=C21 | C18H22N6
